US08349824B2
A mixture of ethyl 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate (322 mg, 840 μmol) and lithium hydroxide hydrate (141 mg, 3.36 mmol) in methanol (20 ml) and water (5 ml) was stirred for 2.5 days at 25° C. The solvent was evaporated, the residue was acidified with hydrochloric acid 37% to pH=0, the precipitated solid was filtered off, washed with water and dried affording 1-methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (316 mg, 106%) as an off-white solid. mp: >250° C., MS: m/z=356.4 (M+H+)

reactant | ethyl 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate | 840 μmol, 322 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O)C(=O)OCC | C18H21N7O3
reactant | lithium hydroxide hydrate | 3.36 mmol, 141 mg | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 1-methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 316 mg, 106% | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O)C(=O)O | C16H17N7O3
